US04435406
24 ml of nitric acid (d=1.4) in 60 ml of glacial acetic acid were added dropwise at 15°-20° C. to 39.0 g of 2,2-dimethyl-1,3-benzodioxole in 200 ml of glacial acetic acid. After stirring at room temperature for 3 hours, the mixture was poured into ice/water and extracted twice with 1 l of methylene chloride. The organic phase was washed neutral with water, dried over sodium sulfate and evaporated in vacuo. The residue, recrystallized from methanol, gave 17.0 g (33.5% of theory) of 2,2-dimethyl-5-nitro-1,3-benzodioxole of melting point 88°-90° C.

reactant | nitric acid | 24 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2,2-dimethyl-1,3-benzodioxole | 39.0 g | CC1(OC2=C(O1)C=CC=C2)C | C9H10O2
solvent | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 200 ml | C(C)(=O)O | C2H4O2
product | 2,2-dimethyl-5-nitro-1,3-benzodioxole | 17.0 g, 33.5% | CC1(OC2=C(O1)C=CC(=C2)[N+](=O)[O-])C | C9H9NO4
